US08404679B2
4-Chloro-N-{(3RS,4SR)-4-(4-chloro-phenyl)-1-[1-(tetrahydro-pyran-4-yl)-piperidine-4-carbonyl]-pyrrolidin-3-yl}-N-methyl-3-trifluoromethyl-benzamide
In analogy to the procedure described for the synthesis of example 104, the title compound 4-chloro-N-{(3RS,4SR)-4-(4-chloro-phenyl)-1-[1-(tetrahydro-pyran-4-yl)-piperidine-4-carbonyl]-pyrrolidin-3-yl}-N-methyl-3-trifluoromethyl-benzamide was prepared from 4-chloro-N-[(3RS,4SR)-4-(4-chloro-phenyl)-1-(piperidine-4-carbonyl)-pyrrolidin-3-yl]-N-methyl-3-trifluoromethyl-benzamide using tetrahydro-4H-pyran-4-one instead of acetone and was obtained as a white foam. MS m/e: 612.2 [M]+.

reactant | 4-chloro-N-[(3RS,4SR)-4-(4-chloro-phenyl)-1-(piperidine-4-carbonyl)-pyrrolidin-3-yl]-N-methyl-3-trifluoromethyl-benzamide | ClC1=C(C=C(C(=O)N(C)C2CN(CC2C2=CC=C(C=C2)Cl)C(=O)C2CCNCC2)C=C1)C(F)(F)F | C25H26Cl2F3N3O2
reactant | tetrahydro-4H-pyran-4-one | O1CCC(CC1)=O | C5H8O2
product | 4-chloro-N-{(3RS,4SR)-4-(4-chloro-phenyl)-1-[1-(tetrahydro-pyran-4-yl)-piperidine-4-carbonyl]-pyrrolidin-3-yl}-N-methyl-3-trifluoromethyl-benzamide | ClC1=C(C=C(C(=O)N(C)C2CN(CC2C2=CC=C(C=C2)Cl)C(=O)C2CCN(CC2)C2CCOCC2)C=C1)C(F)(F)F | C30H34Cl2F3N3O3
